US04727067
A solution of 43.2 g of 4-[(2-benzyloxyethoxy)phenyl]benzyl ether in 450 ml of tetrahydrofuran is hydrogenated with the addition of 9 g of 5% palladium on carbon catalyst. After absorption of 2 molar equivalents of hydrogen, the catalyst is removed by filtration and the filtrate is concentrated by evaporation. The resultant yellow oil gradually congeals to a crystalline solid. A sample is recrystallised from a small amount of isopropanol, affording pure 4-(2-hydroxyethoxy)phenol with a melting point of 98°-99° C.

reactant | 4-[(2-benzyloxyethoxy)phenyl]benzyl ether | 43.2 g | C(C1=CC=CC=C1)OCCOC1=C(C=CC=C1)C1=CC=C(COCC2=CC=C(C=C2)C2=C(C=CC=C2)OCCOCC2=CC=CC=C2)C=C1 | C44H42O5
reactant | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 9 g | [Pd] | Pd
product | 4-(2-hydroxyethoxy)phenol | OCCOC1=CC=C(C=C1)O | C8H10O3
